US07718693B2
(L)-pyroglutamic acid methyl ester (1 g, 6.99 mmol) was dissolved/mixed with tetrahydrofuran (10 ml) and cooled to 0° C. using an ice-bath. Sodium hydride (0.201 g of a 60% suspension in oil, 8.38 mmol) was added to the mixture. After bubbling stopped, methyl iodide (0.522 ml, 8.38 mmol) was added and the mixture was allowed to warm to room temperature and then stirred for 1 hr. The solvent was evaporated and water was added (1 ml). The aqueous layer was then extracted with dichloromethane. Evaporation of the dichloromethane gave crude methyl 1-methyl-5-oxo-prolinate (0.308 g) which was used in the next step without further purification.

reactant | (L)-pyroglutamic acid methyl ester | 6.99 mmol, 1 g | COC([C@H]1NC(CC1)=O)=O | C6H9NO3
reactant | Sodium hydride | [H-].[Na+]
reactant | methyl iodide | 8.38 mmol, 0.522 ml | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 1-methyl-5-oxo-prolinate | 0.308 g | CN1[C@H](C(=O)OC)CCC1=O | C7H11NO3
